US07135475B2
N-{4-[3-Cyclopropylmethyl-1-(2-fluorobenzyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-2,N-dimethyl-nicotinamide
This compound was prepared by a method similar to that described in example 79 except that 2-methylnicotinic acid (Aldrich) was used in place of N-acetyl-6-amino-2-pyridine carboxylic acid, N-bromosuccinimide was used in place of N-chlorosuccinimide, the reaction was performed using 0.66 equivalents of 3-cyclopropylmethyl-8-[4-(methylamino)-benzyl]-1-(2-fluorobenzyl)-3,7-dihydropurine-2,6-dione and 1 equivalent of triethylamine was added as the final reagent to the reaction mixture. Purification was performed by chromatography using silica eluted with 95:5 ethyl acetate/methanol to give the product as a light brown solid (34%). MS, M+H)=553.2361.

reactant | 2-methylnicotinic acid | CC1=C(C(=O)O)C=CC=N1 | C7H7NO2
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 3-cyclopropylmethyl-8-[4-(methylamino)-benzyl]-1-(2-fluorobenzyl)-3,7-dihydropurine-2,6-dione | 0.66 equivalents | C1(CC1)CN1C(N(C(C=2NC(=NC12)CC1=CC=C(C=C1)NC)=O)CC1=C(C=CC=C1)F)=O | C24H24FN5O2
reactant | triethylamine | 1 equivalent | C(C)N(CC)CC | C6H15N
product | N-{4-[3-Cyclopropylmethyl-1-(2-fluorobenzyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-2,N-dimethyl-nicotinamide | 34% | C1(CC1)CN1C(N(C(C=2NC(=NC12)CC1=CC=C(C=C1)N(C(C1=C(N=CC=C1)C)=O)C)=O)CC1=C(C=CC=C1)F)=O | C31H29FN6O3
